US04053472
0.31 g. of 1-(2-chloroethyl)-2-(5-nitro-1-methyl-2-imidazolyl)-benzimidazole are boiled for 12 hours with 0.18 g. of morpholine in 50 ml. of dioxane. By evaporation and preparative thin-layer chromatography of the mixture, 50 mg. of 1-(2-morpholinoethyl)-2-(5-nitro-1-methyl-2-imidazolyl)-benzimidazole is obtained, the hydrochloride of which has a melting point of 237° C.

reactant | 1-(2-chloroethyl)-2-(5-nitro-1-methyl-2-imidazolyl)-benzimidazole | ClCCN1C(=NC2=C1C=CC=C2)C=2N(C(=CN2)[N+](=O)[O-])C | C13H12ClN5O2
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(2-morpholinoethyl)-2-(5-nitro-1-methyl-2-imidazolyl)-benzimidazole | O1CCN(CC1)CCN1C(=NC2=C1C=CC=C2)C=2N(C(=CN2)[N+](=O)[O-])C | C17H20N6O3
